US07262198B2
A solution of 2-methylenesuccinic anhydride (500 mg, 4.46 mmol) and aniline (0.4 mL, 4.46 mmol) in CH3Cl were shaken overnight. A precipitate formed, which was filtered off, washed with hexanes, and dried under vacuum to afford 2-[(N-phenylcarbamoyl)methyl]prop-2-enoic acid.

reactant | 2-methylenesuccinic anhydride | 4.46 mmol, 500 mg | C=C1C(=O)OC(C1)=O | C5H4O3
reactant | aniline | 4.46 mmol, 0.4 mL | NC1=CC=CC=C1 | C6H7N
solvent | CH3Cl | CCl | CH3Cl
product | 2-[(N-phenylcarbamoyl)methyl]prop-2-enoic acid | C1(=CC=CC=C1)NC(=O)CC(C(=O)O)=C | C11H11NO3
